US07220862B2
(±)-2-(Di-tert-butoxycarbonylamino)-3-(1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-propionic acid methyl ester
To a solution of 4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine (160 mg) in 2.5 mL methanol was added 2-(di-tert-butoxycarbonylamino)-acrylic acid methyl ester (400 mg). The reaction was concentrated to approximately 1.5 mL by application of a gentle stream of nitrogen. The solution was stirred at room temperature overnight. The reaction was concentrated, dissolved in ethyl acetate, washed with brine, dried over magnesium sulfate, and concentrated. The resulting residue was pure enough to use without purification. 1H-NMR (CDCl3, 500 MHz) δ 1.44 (s, 9H), 2.73 (m, 3H), 2.91 (m, 1H), 3.06 (dd, J=13.4, 8.6, 1H), 3.22 (dd, J=13.4, 8.2, 1H), 3.54 (d, J=13.4, 1H), 3.63 (d, J=13.4, 1H), 3.71 (s, 3H), 5.11 (dd, J=8.5, 5.2, 1H), 7.25 (s, 1H). Mass spec.: 425.23 (MH)+.

reactant | 4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine | 160 mg | N1N=CC=2CNCCC21 | C6H9N3
reactant | 2-(di-tert-butoxycarbonylamino)-acrylic acid methyl ester | 400 mg | COC(C(=C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C14H23NO6
solvent | methanol | 2.5 mL | CO | CH4O
product | (±)-2-(Di-tert-butoxycarbonylamino)-3-(1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-propionic acid methyl ester | COC(C(CN1CC2=C(CC1)NN=C2)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C20H32N4O6
